US06969711B2
Isoamyl nitrite (1 ml) was slowly dropped into a solution of N-[3-amino-2,6-diisopropylphenyl]-2-[4-(2-hydroxyethyl)piperazin-1-yl]acetamide (500 mg) in dimethyl disulfide (10 ml) with heating and stirring at 110° C. followed by stirring at the same temperature for 20 minutes. The reaction solution was allowed to cool and concentrated. The resulting residue was purified by a silica gel column chromatography (developing solvent, chloroform:methanol=20:1) to provide 370 mg (yield 68%) of N-[2,6-diisopropyl-3-(methylthio)phenyl]-2-[4-(2-hydroxyethyl)piperazin-1-yl]acetamide.

reactant | Isoamyl nitrite | 1 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | N-[3-amino-2,6-diisopropylphenyl]-2-[4-(2-hydroxyethyl)piperazin-1-yl]acetamide | 500 mg | NC=1C(=C(C(=CC1)C(C)C)NC(CN1CCN(CC1)CCO)=O)C(C)C | C20H34N4O2
reactant | dimethyl disulfide | 10 ml | CSSC | C2H6S2
product | N-[2,6-diisopropyl-3-(methylthio)phenyl]-2-[4-(2-hydroxyethyl)piperazin-1-yl]acetamide | 370 mg, yield 68% | C(C)(C)C1=C(C(=CC=C1SC)C(C)C)NC(CN1CCN(CC1)CCO)=O | C21H35N3O2S
